US07915443B2
In a 250 mL round bottom flask, methyl 3-(4-(methylthio)phenyl)propanoate (0.50 g, 2.38 mmol) was dissolved in MeOH under a N2(g). The resulting solution was cooled to 0° C., then 0.5 M NaIO4 (4.76 mL, 2.38 mmol) was added dropwise to the cooled solution causing the formation of a white precipitate. The reaction was allowed to warm to room temperature. When HPLC indicated complete consumption of starting thioether, the reaction was filtered and the filtrate was concentrated. The resulting residue was taken up in CHCl3 (25 mL) then extracted with brine. The brine layer was subsequently extracted with CHCl3 (2×25 mL). The combined organic extracts were then dried over anhydrous Na2SO4(s), filtered and concentrated. The resulting sulfoxide was then purified by passing through a plug of silica using EtOAc/Hexanes as eluant affording methyl 3-(4-(methylsulfinyl)phenyl)propanoate (0.436 g, 81%).

reactant | methyl 3-(4-(methylthio)phenyl)propanoate | 2.38 mmol, 0.50 g | CSC1=CC=C(C=C1)CCC(=O)OC | C11H14O2S
reactant | MeOH | CO | CH4O
product | methyl 3-(4-(methylsulfinyl)phenyl)propanoate | 0.436 g, 81% | CS(=O)C1=CC=C(C=C1)CCC(=O)OC | C11H14O3S
